US07410988B2
N-(3-Morpholinopropyl)-N-(4-(3-phenylisoxazol-5-yl)thiazol-2-yl)thiophene-2-carboxamide
A mixture of 2-bromo-1-(3-phenylisoxazol-5-yl)ethan-1-one (160 mg, 0.6 mmol) and (3-morpholin-4-yl-propyl)-thiourea (122 mg, 0.6 mmol) in dry dioxane (5 ml) was heated at 80° C. for 2 h, cooled to room temperature, and concentrated in vacuo. The resulting residue was suspended in dichloromethane (5 mL) followed by the addition of N,N-diisopropylethylamine (209 μL, 1.2 mmol) and thiophene-2-carbonyl chloride (96 μL, 0.9 mmol). The reaction mixture was maintained at room temperature overnight, then concentrated in vacuo. The resulting residue was dissolved in DMSO (2.5 mL) and subjected to HPLC purification (Method Y). The resulting free amine was dissolved in MeOH (1 mL) and 1M HCl/ether (50 mL) was added. The precipitate was filtered and dried in vacuo to provide the title compound (155 mg) as an off-white solid as the hydrochloride salt. LC/MS (ESI) m/z 481.1 [M+H]. HPLC retention time (Method B)=2.94 min.

reactant | 2-bromo-1-(3-phenylisoxazol-5-yl)ethan-1-one | 0.6 mmol, 160 mg | BrCC(=O)C1=CC(=NO1)C1=CC=CC=C1 | C11H8BrNO2
reactant | (3-morpholin-4-yl-propyl)-thiourea | 0.6 mmol, 122 mg | N1(CCOCC1)CCCNC(=S)N | C8H17N3OS
reactant | N,N-diisopropylethylamine | 1.2 mmol, 209 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thiophene-2-carbonyl chloride | 0.9 mmol, 96 μL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-(3-Morpholinopropyl)-N-(4-(3-phenylisoxazol-5-yl)thiazol-2-yl)thiophene-2-carboxamide | 155 mg | O1CCN(CC1)CCCN(C(=O)C=1SC=CC1)C=1SC=C(N1)C1=CC(=NO1)C1=CC=CC=C1 | C24H24N4O3S2
